US04294960
Ethyl 2-pentyloxyimino-4-chloro-3-oxobutyrate (syn isomer, 51.1 g.), thiourea (14.7 g.), sodium acetate trihydrate (26.4 g.), ethanol (175 ml.) and water (125 ml.), were treated in a similar manner to that of Example F-(3) to give ethyl 2-(2-aminothiazol-4-yl)-2-pentyloxyiminoacetate (syn isomer, 28.7 g.), mp. 86° to 88° C.

reactant | Ethyl 2-pentyloxyimino-4-chloro-3-oxobutyrate | 51.1 g | C(CCCC)ON=C(C(=O)OCC)C(CCl)=O | C11H18ClNO4
reactant | thiourea | 14.7 g | NC(=S)N | CH4N2S
reactant | sodium acetate trihydrate | 26.4 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ethanol | 175 ml | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
product | ethyl 2-(2-aminothiazol-4-yl)-2-pentyloxyiminoacetate | 28.7 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCCCC | C12H19N3O3S
